US08097610B2
Preparation of 2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethanol
To a solution of [4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]acetic acid methyl ester (20.1 g) in tetrahydrofuran (300 mL) was added dropwise diisobutyl aluminium hydride (1M toluene solution, 200 mL) at −78° C. The mixture was stirred at −78° C. for 3.5 hours. To the reaction solution were added aqueous ammonium chloride solution (150 mL) and diethyl ether (45 mL). The insoluble material was filtrated. The filtrate was extracted diethyl ether. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel to give the title compound (13.2 g). Yield: 71%.

reactant | [4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]acetic acid methyl ester | 20.1 g | COC(CN1C(CN(CC1C)C=1SC(=CN1)Br)C)=O | C12H18BrN3O2S
reactant | diisobutyl aluminium hydride | 1M, 200 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
reactant | diethyl ether | 45 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethanol | 13.2 g, Yield: 71% | BrC1=CN=C(S1)N1CC(N(C(C1)C)CCO)C | C11H18BrN3OS
